US06410529B1
A solution of quinolin-4-yl carbamic acid tert butyl ester (16.8 g) in 5N HCl (200 ml) was boiled for 5 h. The reaction mixture was diluted with water made basic with sodium hydroxide and washed with dichloromethane. The aqueous phase was separated and evaporated to dryness at reduced pressure. The residue was dissolved in propan-1-ol, insoluble material separated by filtration and the filtrate evaporated to dryness. The residue was dissolved in dichloromethane/ethyl acetate, filtered to remove insoluble inorganic salts and solvent removed at reduced pressure to give 4-aminoquinoline (8.7 g).

reactant | quinolin-4-yl carbamic acid tert butyl ester | 16.8 g | C(C)(C)(C)OC(NC1=CC=NC2=CC=CC=C12)=O | C14H16N2O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | HCl | 5N, 200 ml | Cl | ClH
solvent | water | O | H2O
product | 4-aminoquinoline | 8.7 g | NC1=CC=NC2=CC=CC=C12 | C9H8N2
